US07884101B2
Preparation of 1-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-methoxy-azetidin-1-yl)-ethoxy]-phenyl}-3-(4-chloro-phenyl)-urea (Compound 267)
To a solution of 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-4-(2-(3-methoxyazetidin-1-yl)ethoxy)benzenamine (39.2 mg, 0.103 mmol) in CH2Cl2 (4 mL) was added 4-chlorophenyl isocyanate (18.0 mg) and stirred for two hours. The resulting material was purified by HPLC. The product was dried in vacuo to afford the title compound as a white solid (50.7 mg, 92%). LCMS m/z (%)=534 (M+H 79Br, 74), 536 (M+H 81Br, 100). 1H NMR (400 MHz, DMSO-d6) δ: 8.79 (bs, 1H), 8.70 (bs, 1H), 7.60 (s, 11H), 7.52 (dd, J=8.95, 2.71 Hz, 1H), 7.47 (d, J=8.94 Hz, 2H), 7.35 (d, J=2.70 Hz, 1H), 7.31 (d, J=8.91 Hz, 2H), 7.09 (d, J=9.03 Hz, 1H), 4.02-3.86 (m, 2H), 3.83 (quint, J=5.80 Hz, 1H), 3.66 (s, 3H), 3.35-3.29 (m, 1H), 3.27-3.18 (m, 1H), 3.08 (s, 311), 2.74-2.56 (m, 4H).

reactant | 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-4-(2-(3-methoxyazetidin-1-yl)ethoxy)benzenamine | 0.103 mmol, 39.2 mg | BrC=1C=NN(C1C=1C=C(C=CC1OCCN1CC(C1)OC)N)C | C16H21BrN4O2
reactant | 4-chlorophenyl isocyanate | 18.0 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-methoxy-azetidin-1-yl)-ethoxy]-phenyl}-3-(4-chloro-phenyl)-urea | 50.7 mg, 92% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CC(C1)OC)NC(=O)NC1=CC=C(C=C1)Cl | C23H25BrClN5O3
